US05614530
A mixture of N-(1-isopropylpyrazol-5-yl) anthranilic acid (52 g, 0.212 mol) and POCl3 (436 ml, 4.68 mol) was refluxed for 3 hours, then was stirred at room temperature overnight. The excess POCl3 was removed by distillation and then the residue was poured into ice/water. The mixture was neutralized with 35% NaOH and then extracted with CH2Cl2. The CH2Cl2 layer was separated and washed with water, then brine and then was dried over MgSO4, filtered and evaporated. The residue was dissolved in CH2Cl2 and then was purified by column chromatography on silca gel eluting with CH2Cl2 to afford 21.3 g (40.9%) of 1-isopropyl-4-chloro-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-isopropylpyrazol-5-yl) anthranilic acid | 0.212 mol, 52 g | C(C)(C)N1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C13H15N3O2
reactant | POCl3 | 4.68 mol, 436 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-isopropyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 21.3 g, 40.9% | C(C)(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C13H12ClN3
